* C:\Users\josel\hobby\dev_RM60\RM60.asc
C1 N001 0 4700µF V=35
R1 Red+12 Yellow-GND 10K
C2 Yellow-GND 0 10nF
R2 Red+12 Green-SigOut 4.7K
D1 Red+12 N003 1N5819
C3 N003 0 10nF
R3 N003 N001 5.1
Q1 N013 N008 N003 0 2N2907
R4 N003 N008 47K
Q2 Green-SigOut N018 0 0 2N3904
R5 N013 N018 4.7K
D2 0 Green-SigOut 1N5819
C4 Green-SigOut 0 1nF
R6 N008 N007 10K
C5 N007 N006 470pF
R7 N006 N016 10Meg
R8 N006 HT 1Meg
C6 HT 0 39nF
D3 N023 HT RR2LAM4S
C§LND712 N016 0 30pF
D4 N014 HT UDZLV150
D5 N011 N014 UDZLV150
D6 N002 N011 UDZLV150
D7 0 N023 RR2LAM4S
L1 N019 N005 0.95H Rser=540
L2 N010 N005 1.3µH Rser=0.1
L3 0 N012 0.47µH Rser=0.01
Q3 N012 N010 N001 0 2N2907
D8 N002 N001 RR2LAM4S
C9 N001 0 10nF
C10 N001 0 0.47µF
C11 N001 0 0.47µF
D9 N005 N015 1N4148
Q4 N020 N022 0 0 2N3904
R9 N001 N020 1Meg
R10 N022 0 10Meg
R11 N002 N022 4.7Meg
C12 N020 0 10nF
Q5 N017 N020 0 0 2N3904
R12 N015 N017 2.2K
R13 N001 N020 1Meg
V1 Red+12 0 24 Rser=1
V2 N021 0 PULSE(0 -30 1us 10us 10us 30us 200us 1) Rser=0
C8 N019 N023 100pF
C13 N005 0 470nF
R14 N010 N021 10K
.model D D
.lib C:\Users\josel\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\josel\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 100ms
K1 L2 L3 1
K2 L1 L2 1
K3 L1 L3 1
.backanno
.end
